US07371748B2
1-Methyl-1H-pyrazole-4-carboxylic acid (7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-amide
Using 7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine and 1-methyl-1H-pyrazole-4-carboxylic acid, the title compound was prepared in the same manner as described for 5-methyl-thiophene-2-carboxylic acid (7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-amide and obtained as white solid. MS: m/e=389(M+H+).

reactant | 7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)N)OC | C13H16N2O3S
reactant | 1-methyl-1H-pyrazole-4-carboxylic acid | CN1N=CC(=C1)C(=O)O | C5H6N2O2
reactant | 5-methyl-thiophene-2-carboxylic acid (7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-amide | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)NC(=O)C=2SC(=CC2)C)OC | C19H20N2O4S2
product | 1-Methyl-1H-pyrazole-4-carboxylic acid (7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-amide | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)NC(=O)C=2C=NN(C2)C)OC | C18H20N4O4S
